US05424443
2,4-dichloro-6-fluoro-7-nitrobenzothiazole
23.7 g 2,4-Dichloro-6-fluorobenzothiazole was dissolved in 100 ml concentrated sulfuric acid and the solution cooled to 0° C. To this was added very slowly, dropwise, a cooled solution of 14 ml concentrated sulfuric acid and 14 ml 100% nitric acid. The mixture was stirred for 3 hours, poured into 500 ml ice water, the resulting crystals filtered off, washed with water until neutral and dried in vacuo. Yield: 22.7 g=79% of theory m.p.: 110°-112° C.

reactant | 2,4-Dichloro-6-fluorobenzothiazole | 23.7 g | ClC=1SC2=C(N1)C(=CC(=C2)F)Cl | C7H2Cl2FNS
reactant | nitric acid | 14 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
product | 2,4-dichloro-6-fluoro-7-nitrobenzothiazole | ClC=1SC2=C(N1)C(=CC(=C2[N+](=O)[O-])F)Cl | C7HCl2FN2O2S
